US05210092
To a solution of 1-(4-methylphenyl)pyrrole (1 g) in tetrahydrofuran (50 ml) was added N-chlorosuccinimide (850 mg) in one portion at -78° C. under nitrogen atmosphere. The mixture was warmed to 10° C., stirred for one hour, and then concentrated in vacuo. The residue was purified by flash column chromatography on silica gel to yield 2-chloro-1-(4-methylphenyl)pyrrole (1.2 g) as an oil. (This product was a mixture of the starting material and the desired product and used to the next reaction furthermore without purification.)

reactant | 1-(4-methylphenyl)pyrrole | 1 g | CC1=CC=C(C=C1)N1C=CC=C1 | C11H11N
reactant | N-chlorosuccinimide | 850 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-chloro-1-(4-methylphenyl)pyrrole | 1.2 g | ClC=1N(C=CC1)C1=CC=C(C=C1)C | C11H10ClN
